US04007173
Acylation of 7-ADCA, 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid or any of the cephem compounds named in Example 6 with α-t-butoxycarboxyamino-p-(3-methylureido)phenylacetic acid followed by deblocking according to the procedure of Example 2 gives the corresponding 7-[α-amino-p-(3-methylureido)-phenyl-acetamido]cephem compound. 7-[α-amino-p-(3-methylureido) phenylacetamido]-3-(1,2,3-triazol-4-ylthiomethyl)-3-cephem-4-carboxylic acid is prepared by reacting 7-ACA with α-t-butoxycarbonylamino-p-(3-methylureido)phenylacetic acid and then with 4-mercapto-1,2,3-triazole with subsequent deblocking of the amino grouping according to the procedure of Example 5.

reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | α-t-butoxycarbonylamino-p-(3-methylureido)phenylacetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=C(C=C1)NC(=O)NC | C15H21N3O5
reactant | 4-mercapto-1,2,3-triazole | SC=1N=NNC1 | C2H3N3S
product | 7-[α-amino-p-(3-methylureido) phenylacetamido]-3-(1,2,3-triazol-4-ylthiomethyl)-3-cephem-4-carboxylic acid | NC(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N=NNC2)C(=O)O)C1=O)C1=CC=C(C=C1)NC(=O)NC | C20H22N8O5S2
